US08039472B2
A solution of ((S)-1-aminomethyl-5-benzyloxycarbonylamino-pentyl)-carbamic acid tert-butyl ester (0.24 g, 0.657 mmol) in DCM (2.4 ml) is treated dropwise with TFA (0.6 ml) and stirred at room temperature for 3 days. The solvent is removed in vacuo to afford ((S)-5,6-Diamino-hexyl)-carbamic acid benzyl ester as a yellow oil; [M+H]+ 266

reactant | ((S)-1-aminomethyl-5-benzyloxycarbonylamino-pentyl)-carbamic acid tert-butyl ester | 0.657 mmol, 0.24 g | C(C)(C)(C)OC(N[C@@H](CCCCNC(=O)OCC1=CC=CC=C1)CN)=O | C19H31N3O4
reactant | TFA | 0.6 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 2.4 ml | C(Cl)Cl | CH2Cl2
product | ((S)-5,6-Diamino-hexyl)-carbamic acid benzyl ester | C(C1=CC=CC=C1)OC(NCCCC[C@@H](CN)N)=O | C14H23N3O2
